US06831074B2
Ethyl 4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-2-carboxylate
A mixture of 4,5,6,7-tetrahydro[1,2,3]oxadiazolo[3,4-a]pyridin-8-ium-3-olate (Heterocycles; 1990; 31; 481), (13.0 g, 93 mmol), and ethyl propiolate (28.5 ml, 278 mmol), in xylene (250 ml) was heated under reflux for 2 hours. The cooled mixture was evaporated under reduced pressure. The residual oil was purified by column chromatography on silica gel using ether as the eluant, to afford the title compound as an oil, 5.82 g.

reactant | 4,5,6,7-tetrahydro[1,2,3]oxadiazolo[3,4-a]pyridin-8-ium-3-olate | 93 mmol, 13.0 g | N=1OC(=C2[N+]1CCCC2)[O-] | C6H8N2O2
reactant | ethyl propiolate | 278 mmol, 28.5 ml | C(C#C)(=O)OCC | C5H6O2
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-2-carboxylate | N1=C(C=C2N1CCCC2)C(=O)OCC | C10H14N2O2
